US05399575
5-{4-[2-(4-Pyridinyl)-ethenyl]-phenoxy}-valeronitrile
To the solution of 1.16 g (50 mmol) sodium in 250 ml 2-propanol one adds 10.0 g (50 mmol) 4-[2-(4-pyridinyl)-ethenyl]-phenol, heats under reflux for 10 min, allows to cool, adds thereto 8.1 g (50 mmol) 5-bromovaleronitrile and heats to reflux for 16 h. One evaporates, mixes with water, extracts with dichloromethane, dries the extract, evaporates and triturates the residue with ether. One obtains 11.9 g of title compound (86% of theory) of the m.p. 85°-87° C.

reactant | sodium | 50 mmol, 1.16 g | [Na] | Na
reactant | 4-[2-(4-pyridinyl)-ethenyl]-phenol | 50 mmol, 10.0 g | N1=CC=C(C=C1)C=CC1=CC=C(C=C1)O | C13H11NO
reactant | 5-bromovaleronitrile | 50 mmol, 8.1 g | BrCCCCC#N | C5H8BrN
solvent | 2-propanol | 250 ml | CC(C)O | C3H8O
product | 5-{4-[2-(4-Pyridinyl)-ethenyl]-phenoxy}-valeronitrile | 11.9 g, 86% | N1=CC=C(C=C1)C=CC1=CC=C(OCCCCC#N)C=C1 | C18H18N2O
